US08809371B2
Ammonium chloride (1.10 g), WSC.HCl (2.97 g), HOBt.H2O (2.37 g), and diisopropylethylamine (7.06 ml) were added to a DMF solution (40 ml) containing 6-(cis-2-(tert-butoxycarbonylamino)cyclohexylamino)-2-chloro-5-fluoronicotinic acid (2.00 g), followed by stirring at room temperature for 7 hours. A saturated aqueous ammonium chloride solution, water, and ethyl acetate were added to the reaction mixture. The organic layer was collected, washed with saturated saline, and dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. Diisopropylether was added to the obtained residue, solid matter was collected by filtration, and a white solid of tert-butyl cis-2-(5-aminocarbonyl-6-chloro-3-fluoropyridin-2-ylamino)cyclohexylcarbamate (1.75 g) was thus obtained.

reactant | Ammonium chloride | 1.10 g | [Cl-].[NH4+]
reactant | WSC.HCl | 2.97 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 7.06 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-(cis-2-(tert-butoxycarbonylamino)cyclohexylamino)-2-chloro-5-fluoronicotinic acid | 2.00 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)O)C=C1F)Cl | C17H23ClFN3O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | H2O | 2.37 g | O | H2O
product | tert-butyl cis-2-(5-aminocarbonyl-6-chloro-3-fluoropyridin-2-ylamino)cyclohexylcarbamate | 1.75 g | NC(=O)C=1C=C(C(=NC1Cl)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)F | C17H24ClFN4O3
